US05922771
(E)-(2-Benzyl-6-methoxyindan-1-ylidene)acetonitrile
Starting with 2-benzyl-6-methoxy-1-indanone and acetonitrile, the title compound was synthesized in otherwise the same manner as Reference Example 1 (yield 76%). This compound was used in the next reaction without further purification.

reactant | 2-benzyl-6-methoxy-1-indanone | C(C1=CC=CC=C1)C1C(C2=CC(=CC=C2C1)OC)=O | C17H16O2
reactant | acetonitrile | C(C)#N | C2H3N
product | (E)-(2-Benzyl-6-methoxyindan-1-ylidene)acetonitrile | C(C1=CC=CC=C1)C1/C(/C2=CC(=CC=C2C1)OC)=C\C#N | C19H17NO
